US07618973B2
a) 5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid
To a solution of 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid methyl ester (1.00 g, 3.07 mmol) (1.0 g, 1.69 mmol) in ethanol (10 mL) was added aqueous sodium hydroxide (1 N, 6.2 mL). After heating at 60° C. for 30 min it was cooled to ambient temperature and aqueous sodium carbonate (2 M, 50 mL) added. Addition of aqueous sodium hydroxide (1 M, 50 mL) was followed by extraction with tert-butylmethylether. The aqueous phase was acidified with aqueous hydrogen chloride (25%) to pH=2 and extracted with tert-butylmethylether and ethyl acetate. The combined organic layers were dried over sodium sulfate and concentration afforded the title compound (450 mg, 86%) as a white foam. MS: m/e=310.5 [M−H]−.

reactant | 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid methyl ester | 3.07 mmol, 1.00 g | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C17H15N3O4
reactant | sodium hydroxide | 1 N, 6.2 mL | [OH-].[Na+]
reactant | sodium carbonate | 2 M, 50 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1 M, 50 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid | 450 mg, 86% | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1N=CC(=NC1)C(=O)O | C16H13N3O4
